US06586441B2
2-Amino-4-[2-(4-hydroxy-phenyl)-ethylamino]-6-phenyl-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfonyl-6-phenyl-pyrimidine-5-carbonitrile and tyramine in DME. ES-MS m/e (%): 332 (M+H+, 100).

reactant | 2-amino-4-methanesulfonyl-6-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)(=O)C)C#N)C1=CC=CC=C1 | C12H10N4O2S
reactant | tyramine | NCCC1=CC=C(C=C1)O | C8H11NO
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-[2-(4-hydroxy-phenyl)-ethylamino]-6-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCCC1=CC=C(C=C1)O)C#N)C1=CC=CC=C1 | C19H17N5O
